US06331538B1
3-Allyloxy-6,7-difluoro-1H-quinazoline-2,4-dione
Phosgene, as a 12.5% solution in toluene (9.4 mL, 12 mmol), was added to a solution of 2-amino-N-allyloxy-4,5-difluorobenzamide (Example Y-3, 2.08 g, 9.1 mmol) in 75 mL of dioxane. The solution was heated at reflux for 20 hours and then poured into 200 mL of water. The aqueous solution was extracted with ethyl acetate, and the combined organic fractions were washed with water and brine and dried over magnesium sulfate. The solution was concentrated to give 2.18 g of the title compound as a solid, mp 220-221° C.

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 12 mmol, 9.4 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-amino-N-allyloxy-4,5-difluorobenzamide | 9.1 mmol, 2.08 g | NC1=C(C(=O)NOCC=C)C=C(C(=C1)F)F | C10H10F2N2O2
reactant | water | 200 mL | O | H2O
solvent | dioxane | 75 mL | O1CCOCC1 | C4H8O2
product | 3-Allyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 2.18 g | C(C=C)ON1C(NC2=CC(=C(C=C2C1=O)F)F)=O | C11H8F2N2O3
